US09216993B2
5.7 g of 6-(2,2,2-trifluoroethyl)thieno[2,3-d]pyrimidin-4(3H)-one was added to 16 mL of POCl3 with one drop of DMF. The heterogeneous mixture was refluxed for 3 hs and then evaporated. The residue was quenched with ice and saturated ammonia solution and extracted with chloroform. Combined extracts were evaporated with silica gel and loaded on a short silica gel column. The column was eluted with hexane-ethyl acetate (5:1) to afford 5.9 g of 4-chloro-6-(2,2,2-trifluoroethyl)thieno[2,3-d]pyrimidine. 1H NMR CDCl3 (300 MHz): 8.86 (s, 1H), 7.39 (s, 1H), 3.76 (q, 2H, J9.9 Hz). 13C NMR CDCl3 (75 MHz): 169.0, 154.7, 153.2, 129.9, 125.3, 123.5, 121.3, 35.9 (q, J33.0 Hz).

reactant | 6-(2,2,2-trifluoroethyl)thieno[2,3-d]pyrimidin-4(3H)-one | 5.7 g | FC(CC1=CC2=C(N=CNC2=O)S1)(F)F | C8H5F3N2OS
reactant | POCl3 | 16 mL | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 4-chloro-6-(2,2,2-trifluoroethyl)thieno[2,3-d]pyrimidine | 5.9 g | ClC=1C2=C(N=CN1)SC(=C2)CC(F)(F)F | C8H4ClF3N2S
